US03935209
A solution of 2.0 g. 2-mercaptoimidazole in 25 ml. dimethylformamide is treated with 0.85 g. of 57% sodium hydride (in oil suspension). 3.0 G. of 2-amino-4-chloro-1-nitrobenzene is added and the mixture heated overnight at 150°-155°C. The mixture is diluted with water, filtered and the crude product washed with chloroform, recrystallized from aqueous methanol to yield 2-amino-4-(imidazol-2-ylthio)-1-nitrobenzene.

reactant | 2-mercaptoimidazole | SC=1NC=CN1 | C3H4N2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-amino-4-chloro-1-nitrobenzene | NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H5ClN2O2
solvent | water | O | H2O
product | 2-amino-4-(imidazol-2-ylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SC=1NC=CN1)[N+](=O)[O-] | C9H8N4O2S
